US05726306
A mixture of ethyl trans-7-chloro-5-(4-hydroxy-2-methoxyphenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate (0.25 g), ethyl iodide (0.06 ml), potassium carbonate (0.15 g) and N,N-dimethylformamide (200 ml) was stirred for 3 h. The mixture was diluted with water (50 ml) and extracted with ethyl acetate (100 ml). The extract was washed with 1N hydrochloric acid and aqueous sodium bicarbonate, dried over magnesium sulfate and concentrated in vacuo to give ethyl trans-7-chloro-5-(4-ethoxy-2-methoxyphenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate (0.24 g) as colorless crystals (mp=164°-166° C.).

reactant | ethyl trans-7-chloro-5-(4-hydroxy-2-methoxyphenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate | 0.25 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)(C)C)=O)CC(=O)OCC)C2=C(C=C(C=C2)O)OC)C1 | C25H30ClNO6
reactant | ethyl iodide | 0.06 ml | C(C)I | C2H5I
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | ethyl trans-7-chloro-5-(4-ethoxy-2-methoxyphenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate | 0.24 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)(C)C)=O)CC(=O)OCC)C2=C(C=C(C=C2)OCC)OC)C1 | C27H34ClNO6
